US08420642B2
Preparation of (5-phenylsulfanyl-pyridine-2-yl)-thiazole-2-yl-amine (“A12”)
12.2 (5-Bromo-pyridine-2-yl)-thiazole-2-yl-amine (0.66 mmol) is dissolved in THF, cooled to −70° C. and methyllithium is added (1.3 eq., 5% in diethylether). After 15 min, n-butyl lithium (1.3 eq., 15% in hexan) is added at −70° C. and diphenyldisulfide (7 eq.) is added and the reaction solution is stirred 4 hours at −70° C. A solution of saturated NH4Cl is added and extracted with dichloromethane. The combined organic extracts are washed with brine and dried over MgSO4. “A12” is obtained after reversed phase column chromatography (water/acetonitrile) as a colourless powder in a yield of 20%; HPLC (method C): 1.83 min; LC-MS (method A): 1.892 min, 285.95 (M+H+); 1H-NMR (DMSO-d6, 500 MHz): δ [ppm] 11.506 (s, 1H), 8.398-8.392 (m, 1H), 7.804 (dd, 1H, J=2.4 Hz, J=8.6 Hz), 7.414 (d, 1H, J=3.4 Hz), 7.334-7.307 (m, 2H), 7.230-7.184 (m, 3H), 7.145 (d, 1H, J=8.6 Hz), 7.061 (d, 1H, J=3.6 Hz).

reactant | (5-Bromo-pyridine-2-yl)-thiazole-2-yl-amine | 0.66 mmol | BrC=1C=CC(=NC1)NC=1SC=CN1 | C8H6BrN3S
reactant | methyllithium | C[Li]
reactant | n-butyl lithium | 1.3 eq. | C(CCC)[Li]
reactant | diphenyldisulfide | 7 eq. | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | (5-phenylsulfanyl-pyridine-2-yl)-thiazole-2-yl-amine | C1(=CC=CC=C1)SC=1C=CC(=NC1)NC=1SC=CN1 | C14H11N3S2
